Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Suicidal ideation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ with a hx polysubstance abuse, Hpe C, and 
depression, who presents with suicidal ideation in the setting 
of a low grade fever, nausea and malaise after a 2d binge of 
multiple IVDU (crystal meth, heroin, crack) with dirty needles.  

Patient used meth on ___ and did not sleep, drink, or eat all 
day ___ or ___. Symptoms started yesterday ___ 
___ within ___ minutes of injecting heroin in the morning and 
continued throughout much of the day. These included severe 
nausea, NBNB emesis, and subjective fevers and chills. He hoped 
sleeping would help, and used heroin again this morning (___) 
from a different supplier. However, the symptoms again became 
worse and he decided to go to the ED. 
Over the past few weeks he has been using crystal meth, heroin, 
and crack regularly. Patient reports he hasn't eaten in 5 or so 
days, and has had very little to drink. His needles are often 
dirty, and he injects into hand and neck.  Normally on Methadone 
with Seaside ___, but has not taken in 2 days. Denies CP, 
SOB.

In the ED, initial VS were:  
99.3, HR 100, BP 116/72, RR 18, 98% RA
He received Zofran PO 4mg
Patient was placed under ___ given SI without plan. Psych 
was consulted and he was admitted for low-grade fever and r/o 
endocarditis.
   
On arrival to the floor, patient reports the HPI described 
above. In addition, patient describes throbbing headache over 
last few days that is new. He describes a continued desire to 
"end this life". 

 
Past Medical History:
Depression
Hepatitis C
Polysubstance Abuse
Tobacco Use
Hyperlipidemia
H/o Iritis

 
Social History:
___
Family History:
Mother - ___, COPD
Brother - GERD
Sister - PTSD
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================
VS:  T 98.0 | 120/70 | 77 | 18 | 98 RA 
GENERAL: lethargic but arousable. Uncomfortable.  
HEENT: AT/NC, EOMI, Pupils 7mm--> 4mm equal and reactive. No 
photophobia, anicteric sclera, pink conjunctiva, MMM, good 
dentition  
NECK: Supple neck with no pain on passive movement, no 
lymphadenopathy. small firm subcutaneous nodule in Right neck 
consistent with small hematoma. No erythemia; minimal swelling.
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes. Multiple injection sites noted on feet and hands without 
surrounding swelling or erythema

DISCHARGE PHYSICAL EXAM
======================
VS:  97.9PO 113 / 71 67 16 96 RA
GENERAL: NAD, comfortable appearing  
HEENT: AT/NC, EOMI, anicteric sclera, pink conjunctiva, MMM, 
good dentition  
NECK: Supple neck with no pain on passive movement, no 
lymphadenopathy. Small firm subcutaneous nodule in right neck 
without fluctuance with resolution of erythema.
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused
 
Pertinent Results:
ADMISSION LAB RESULTS
===================
___ 03:45PM BLOOD WBC-6.1 RBC-4.34* Hgb-12.1* Hct-37.5* 
MCV-86 MCH-27.9 MCHC-32.3 RDW-13.8 RDWSD-43.3 Plt ___
___ 03:45PM BLOOD Neuts-78.1* Lymphs-12.8* Monos-8.1 
Eos-0.3* Baso-0.2 Im ___ AbsNeut-4.75 AbsLymp-0.78* 
AbsMono-0.49 AbsEos-0.02* AbsBaso-0.01
___ 03:45PM BLOOD Glucose-76 UreaN-20 Creat-0.9 Na-135 
K-3.8 Cl-99 HCO3-20* AnGap-20
___ 03:45PM BLOOD ALT-30 AST-33 AlkPhos-108 TotBili-0.9
___ 07:05PM BLOOD Albumin-4.3 Iron-23*
___ 07:05PM BLOOD calTIBC-330 Ferritn-174 TRF-254
___ 03:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-POS* Barbitr-NEG Tricycl-NEG
___ 06:58PM BLOOD Lactate-1.0
___ 04:10PM URINE bnzodzp-POS* barbitr-NEG opiates-POS* 
cocaine-POS* amphetm-POS* oxycodn-NEG mthdone-POS*

IMAGING/STUDIES
==============
___ CXR: 
No acute cardiopulmonary process

___ Echocardiogram: 
No vegetations or clinically-significant regurgitant valvular 
disease seen (adequate-quality study). Normal global and 
regional biventricular systolic function. 

___ Ultrasound of Neck:
Inflammatory region without a fluid component seen in the right 
neck at the
site of the patient's swelling.  This site is not amenable to 
drainage.

MICROBIOLOGY
============
___ Blood cultures: pending

___ Urine culture: negative
 
Brief Hospital Course:
Mr. ___ is a ___ with a PMH of polysubstance abuse, Hep C, 
and depression, who presents with suicidal ideation in the 
setting of a low grade fever, nausea and malaise after a 2d 
binge of multiple IVDU (crystal meth, heroin, crack) with dirty 
needles. He was admitted for endocarditis rule out and suicidal 
ideation. TTE did not show any evidence of endocarditis. 
Psychiatry evaluated him and determined that he was safe to be 
discharged. 

# Suicidal Ideation: The patient has history of depression, but 
says thoughts of SI are new.  No active plan at the time of 
hospitalization. He was evaluated by the psychiatry team who 
deemed him safe to discharge from a psychiatric standpoint. He 
may benefit from long term substance abuse program. 

# Malaise: 
Pt presented with nausea/vomiting at home and subjective fevers. 
During the hospitalization, he was without fevers, positive 
blood cultures, or leukocytosis. TTE did not show vegetation. 
Ultrasound of R neck did not show abscess. He did not receive 
antibiotics during the admission. HIV negative and hepatitis C 
still pending at discharge.  

# IVDU:  Patient with a floridly positive urine drug screen. His 
methadone dose was confirmed with ___ clinic. He was 
continued on methadone 72 mg daily. Last dose of methadone given 
in the morning of ___. He was given Narcan prior to 
discharge, delivered to bedside.

# History of Hepatitis C: Patient with normal LFTs and albumin. 
Hepatitis serologies reveal positive core Ab, negative sAg and 
positive sAb. His hepatitis C viral load was pending at 
discharge.

# Chronic, low grade normocytic anemia. Appears to be anemic at 
least for the last year. Iron studies reveal early 
iron-deficiency anemia.

TRANSITIONAL ISSUES
=================
- Patient was connected with ___ Public Health Commission 
PAATHS (Providing Access to Addictions Treatment, Hope and 
Support). ___,  ___. 
Walk in hours M, ___, ___, ___ 7:30am- 3:30 pm; ___ 7:30 - 
1pm.
- He was delivered Narcan at the bedside prior to discharge.
- F/u Hepatitis C viral load
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. CloNIDine 0.2 mg PO BID 
2. Albuterol Inhaler 2 PUFF ___ Q4H:PRN SOB, cough 
3. Methadone 72 mg PO DAILY 

 
Discharge Medications:
1.  Narcan (naloxone) 4 mg/actuation nasal ONCE 
RX *naloxone [Narcan] 4 mg/actuation 1 spray intranasally For 
drug overdose Disp #*1 Bottle Refills:*1 
2.  Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB, cough  
3.  CloNIDine 0.2 mg PO BID  
4.  Methadone 72 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis
- Suicidal ideation

Secondary diagnosis
- Drug misuse disorder
- Hepatitis C

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___ was a pleasure taking care of you here at ___

Why you were here?
- You were having fevers, nausea and rigors concerning for a 
infection of your heart given your recent use of IV drugs
- You were having suicidal thoughts

What was done while you were here?
- Blood cultures were drawn
- You had an ultrasound of your heart (echocardiogram), which 
showed that there was no infection in your heart. 
- You had an ultrasound of your neck, which did not show any 
infected fluid collection. 
- The psychiatry team evaluated you. 

What do you need to do?
- It is very important that you follow-up with your primary care 
doctor
- Please follow up with psychiatry as an outpatient. 

It was a pleasure caring for you. We wish you the best!

Sincerely,
Your ___ Medicine Team

 
Followup Instructions:
___